US05037917
Preparation of 1,4-Bis(Trifluorovinyl)benzene and Bulk Polymerization Thereof
A 5 liter 3-necked round bottom flask is fitted with a mechanical stirrer, a nitrogen padded reflux condenser and a rubber septum. Glyme (100 ml) and activated zinc granules (11.50 g, 0.18 mole) are added to the flask along with a magnetic stirring bar. The flask is then purged with nitrogen for 15 minutes, after which time iodotrifluoroethylene (20.3 g, 0.098 mole) is added slowly via syringe through the septum. After 20 minutes of stirring the mixture begins to turn brown and get warm. After 2 hours a white precipitate begins to form. After stirring is continued without heat for 4 hours, the flask is opened under a slow nitrogen purge and 1,4-diiodobenzene (16.0 g, 0.0485 mole) is added along with palladium tetrakis(triphenylphosphine) (0.57 g, 0.00049 mole). The mixture is stirred overnight, resulting in the formation of a large amount of suspended solid. The reaction is allowed to stir an additional 24 hours, after which it is filtered, and the precipitate is washed with hexane (3 times with 50 ml each wash). The filtrates are combined and evaporated at 30° C. on a rotary evaporator to provide a residue which is purified by column chromatography (neutral alumnia, hexane eluent) to give 7.50 g of CF2 =CF--Ph--CF=CF2 as product (0.0315 mole, 65% yield). This product is analysed by GC/MS and gives the following spectrum: m/e: 238 (100%); 188 (12.0%); 187 (46.4%); 169 (92.0%); 138 (18.8%); 99 (16.3%); 81 (12.3%); 69 (30.1%). The material is found to be air sensitive, fuming acid gasses if left exposed to oxygen.

reactant | iodotrifluoroethylene | 0.098 mole, 20.3 g | IC(=C(F)F)F | C2F3I
reactant | 1,4-diiodobenzene | 0.0485 mole, 16.0 g | IC1=CC=C(C=C1)I | C6H4I2
reactant | oxygen | O=O | O2
catalyst | zinc | [Zn] | Zn
catalyst | palladium tetrakis(triphenylphosphine) | 0.00049 mole, 0.57 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
solvent | Glyme | 100 ml | C(OC)COC | C4H10O2
product | 1,4-Bis(Trifluorovinyl)benzene | 65% yield | FC(=C(F)F)C1=CC=C(C=C1)C(=C(F)F)F | C10H4F6
